US08106077B2
To a solution of 5-chloromethyl-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-[1,2,3]triazole (0.1 g, 0.328 mmol) in dimethylformamide (3 mL) is added 4′-hydroxy-2′methyl-biphenyl-4-carboxylic acid methyl ester (0.079 g, 0.326 mmol) and cesium carbonate (0.21 g, 0.646 mmol). The reaction is heated to 55° C. for 2.5 h and is cooled to room temperature. The reaction mixture is concentrated under reduced pressure. The residue is dissolved in 1N hydrochloric acid and ethyl acetate. The layers are separated and the aqueous is extracted again with ethyl acetate. The organic layers are combined and are washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give 4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2′-methyl-biphenyl-4-carboxylic acid methyl ester. ES/MS m/e (35Cl/37Cl) 510.2/512.2 (M+1).

reactant | 5-chloromethyl-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-[1,2,3]triazole | 0.328 mmol, 0.1 g | ClCC1=C(N=NN1C1=C(C=CC=C1Cl)Cl)C(C)C | C12H12Cl3N3
reactant | 4′-hydroxy-2′methyl-biphenyl-4-carboxylic acid methyl ester | 0.326 mmol, 0.079 g | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)O)C | C15H14O3
reactant | cesium carbonate | 0.646 mmol, 0.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2′-methyl-biphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C | C27H25Cl2N3O3
